US04128429
2-(Dimethylaminomethyl)phenyltributylstannyl Ether is prepared as follows: 59.6 gm (0.1 mole) bis(tributyltin) oxide and 30.0 gm (0.2 mole) 2-dimethylaminomethyl phenol (as just prepared) are placed in 200 ml benzene. This is slowly heated to reflux in a system equipped with a Dean-Starke tube. After about 30 minutes water began to separate in the Dean-Starke tube. After 72 hours at reflux 1.9 ml of water had separated (theory 1.8 ml). A clear straw colored reaction mixture resulted and benzene is evaporated therefrom on a rotating evaporator to provide 87.7 gm of a yellow liquid. This is fractionated at reduced pressure. The product collected at 165°-168° C. at 0.5 mm is 75.0 gm of a straw colored liquid (Percent yield - 82). Infrared spectral analysis provided bands characteristic of the desired product.

reactant | bis(tributyltin) oxide | 0.1 mole, 59.6 gm | CCCC[Sn](CCCC)(CCCC)O[Sn](CCCC)(CCCC)CCCC
reactant | 2-dimethylaminomethyl phenol | 0.2 mole, 30.0 gm | CN(C)CC1=C(C=CC=C1)O | C9H13NO
reactant | water | O | H2O
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 2-(Dimethylaminomethyl)phenyltributylstannyl Ether | CN(C)CC1=C(C=CC=C1)CCCC[Sn](CCCC)(CCCC)O[Sn](CCCC)(CCCC)CCCCC1=C(C=CC=C1)CN(C)C | InChI=1S/2C13H20N.4C4H9.O.2Sn/c2*1-4-5-8-12-9-6-7-10-13(12)11-14(2)3;4*1-3-4-2;;;/h2*6-7,9-10H,1,4-5,8,11H2,2-3H3;4*1,3-4H2,2H3;;;
